US04525309
Butaneboronic acid was esterified with (-)-(R,R)-2,3-butanediol by stirring the reactants in ether until dissolved and adding hexane to aid separation of water and any excess diol. The resulting (R,R)-2,3-butanediol butaneboronate was purified by distillation at 43°-45° C. (5 torr). This material was then added to dichloromethyllithium and the mixture treated with zinc chloride according to the general procedure of Example 1. Concentration of the reaction mixture, treatment with water, and extraction into petroleum ether, followed by concentration under vacuum yielded crude α-chloropentaneboronic ester. The crude ester was not isolated, but immediately was treated with lithiohexamethyldisilazane followed by acetic acid and acetic anhydride according to the procedure of Example 2 to yield 80% of crude crystalline (R,R)-2,3-butanediol 1-acetamidopentane-1-boronate. The 200 MHz NMR spectrum of this material indicated two overlapping NH peaks at δ 9.7, and a curve fitting analysis indicated that the major diastereomer constituted 94-95% of the material. This material was then transesterified by treatment with (+)-pinanediol to produce the known (+)-pinanediol 1 -acetamido-1-pentaneboronate, which was chromatographed on a short column of silica with ether as the eluant, mp 140°-141° C. From the two NH peaks near δ 7.3 in the 200 MHz proton NMR spectrum and comparison with known diastereomer samples, the major diastereomer was found to constitute 95-96% of this product, and was identified as (+)-pinanediol (1R)-1-acetamidopentane-1-boronate. Because the mechanism of replacement of the chlorine requires inversion of the carbon atom, it was concluded that the α-chloro boronic ester intermediate in this sequence is (R,R)-2,3-butanediol (1S)-1-chloropentane-1-boronate, and that the reaction is approximately 95% diastereoselective for this isomer.

reactant | Butaneboronic acid | C(CCC)B(O)O | C4H11BO2
reactant | (-)-(R,R)-2,3-butanediol | C[C@H]([C@@H](C)O)O | C4H10O2
reactant | lithiohexamethyldisilazane | [Li]N([Si](C)(C)C)[Si](C)(C)C
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | ether | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | hexane | CCCCCC | C6H14
product | (R,R)-2,3-butanediol 1-acetamidopentane-1-boronate | 80% | C[C@H]([C@@H](C)O)O.C(C)(=O)NC(CCCC)B([O-])[O-] | InChI=1S/C7H14BNO3.C4H10O2/c1-3-4-5-7(8(11)12)9-6(2)10;1-3(5)4(2)6/h7H,3-5H2,1-2H3,(H,9,10);3-6H,1-2H3/q-2;/t;3-,4-/m.1/s1
